US05051413
The starting material is manufactured as follows: Reaction of 3,3-dimethyl-2-methylene-butanal with isocyanoacetic acid ethyl ester in amanner analogous to that described in Example 1 yields 5-(3,3-dimethylbuten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester, which is hydrolysed analogously to Example 17 to 2-formylamino-3-hydroxy-4-tert.-butyl-4-pentenoic acid ethyl ester. Subsequent reaction with thionyl bromide followed by treatment with trimethyl phosphite analogously to Example 1 yields E-2-formylamino-4-tert.-butyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 2-formylamino-3-hydroxy-4-tert.-butyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C(=C)C(C)(C)C)O)NC=O)=O | C12H21NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | E-2-formylamino-4-tert.-butyl-5-dimethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/C(C)(C)C)NC=O)=O | C14H26NO6P
